US07612200B2
4-(3,5-Dichloropyridin-4-yloxy)benzenamine.
To a vial containing 4-aminophenol (2.185 g, 20.0 mmol, 1 equiv.) in 60 mL DMF was added t-BuOK (2.468 g, 22.0 mmol, 1.1 equiv.) followed by 3,4,5-trichloropyridine (3.653 g, 20.0 mmol, 1 equiv.). The flask was fitted with a condenser and the mixture was stirred at 80° C. under nitrogen. After the reaction mixture was cooled, diluted with ethyl acetate (600 mL) and washed with water (3×150 mL) and brine. The organic layer was dried over Na2SO4, filtered and solvent was removed under vacuum. The crude material was absorbed onto silica gel and purified by flash column (7.5×12 cm silica) using 2500 mL 1:1 hexanes:ethyl acetate giving 4.6348 g (91%) of product as a light yellow crystalline solid.

reactant | 4-aminophenol | 20.0 mmol, 2.185 g, 1 equiv. | NC1=CC=C(C=C1)O | C6H7NO
reactant | t-BuOK | 22.0 mmol, 2.468 g, 1.1 equiv. | CC(C)(C)[O-].[K+]
reactant | 3,4,5-trichloropyridine | 20.0 mmol, 3.653 g, 1 equiv. | ClC=1C=NC=C(C1Cl)Cl | C5H2Cl3N
solvent | DMF | 60 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 600 mL | C(C)(=O)OCC | C4H8O2
product | 4-(3,5-Dichloropyridin-4-yloxy)benzenamine | ClC=1C=NC=C(C1OC1=CC=C(C=C1)N)Cl | C11H8Cl2N2O
